US04957934
A mixture of 2-(4-chlorophenoxy)oxirane (18.4g), potassium carbonate (13.8g) and 1,2,4 triazole (13.8g) in acetonitrile (130ml) was stirred at room temperature for 48 h. The acetonitrile was removed by concentration under reduced pressure, and the residue was partitioned between ethyl acetate and water. The organic phase was separated, washed with water, dried and evaporated to dryness under reduced pressure. The residual yellow oil was purified by silica column chromatography, using 5% by volume methanol in chloroform as eluent, to give 1-(4-chlorophenoxy)-3-(1,2,4--triazol-1-yl)propan-2 ol) as a white solid, which was used without further purification.

reactant | 2-(4-chlorophenoxy)oxirane | 18.4g | ClC1=CC=C(OC2OC2)C=C1 | C8H7ClO2
reactant | potassium carbonate | 13.8g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2,4 triazole | 13.8g | N1N=CN=C1 | C2H3N3
solvent | acetonitrile | 130ml | C(C)#N | C2H3N
product | 1-(4-chlorophenoxy)-3-(1,2,4--triazol-1-yl)propan-2 ol | ClC1=CC=C(OCC(CN2N=CN=C2)O)C=C1 | C11H12ClN3O2
